US04849524
(a) Methyl 1-morpholino-2-oxa-3-aza-bicyclo[4.3.0]non-3-ene-4-carboxylate
4.6 g (30 mmol) of morpholinocyclopentane are reacted with 1.75 g (10 mmol) of methyl 3-bromohydroxyiminopropionate by following the method of Example 1(a). 1.9 g of a colorless oil are obtained.

reactant | morpholinocyclopentane | 30 mmol, 4.6 g | O1CCN(CC1)C1CCCC1 | C9H17NO
reactant | methyl 3-bromohydroxyiminopropionate | 10 mmol, 1.75 g | BrCC(C(=O)OC)=NO | C4H6BrNO3
product | Methyl 1-morpholino-2-oxa-3-aza-bicyclo[4.3.0]non-3-ene-4-carboxylate | 1.9 g | O1CCN(CC1)C12ON=C(CC2CCC1)C(=O)OC | C13H20N2O4
